US09255089B2
5-Bromo-6-methyl-3,4-dihydroquinolin-2(1H)-one (477.7 mg, 1.998 mmol) was treated with NaN3 (194.8 mg, 0.938 mmol, 1.5 equiv) in MeSO3H (3 g) at 0° C. to room temperature for 1 h. The mixture was neutralized with NaHCO3 and extracted with EtOAc (30 mL×3). The organic layer was washed with brine (30 mL) and dried over Na2SO4. The solvent was removed under a reduced pressure and the crude product was recrystallized from EtOAc (10 mL) to give 6-bromo-7-methyl-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one.

reactant | 5-Bromo-6-methyl-3,4-dihydroquinolin-2(1H)-one | 1.998 mmol, 477.7 mg | BrC1=C2CCC(NC2=CC=C1C)=O | C10H10BrNO
reactant | NaN3 | 0.938 mmol, 194.8 mg, 1.5 equiv | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeSO3H | 3 g | CS(=O)(=O)O | CH4O3S
product | 6-bromo-7-methyl-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one | BrC1=C(C=CC=2NC(CCCC21)=O)C | C11H12BrNO
